US04737518
2-O-Benzyl-3-O-octadecyl-1-O-tosylglycerol
In 5 ml of pyridine were dissolved 1 g (2.3 mmole) of 2-O-benzyl-3-O-octadecylglycerol and 1.144 g (6.0 mmole) of tosyl chloride, and the solution was stirred at room temperature overnight. The reaction solution was concentrated to dryness under reduced pressure, and 20 ml of 10% aqueous hydrogen-carbonate solution and 20 ml of ether were added to the residue, followed by shaking thoroughly. The ether layer was separated, dried over sodium sulfate and concentrated to dryness under reduced pressure. The residue was purified by 15 g of silica gel, with n-hexane-ethyl acetate (9:1) used as an eluent, to give 1.2 g (yield of 88.6%) of a colorless solid.

reactant | 2-O-benzyl-3-O-octadecylglycerol | 2.3 mmole, 1 g | C(C1=CC=CC=C1)OC(CO)COCCCCCCCCCCCCCCCCCC | C28H50O3
reactant | tosyl chloride | 6.0 mmole, 1.144 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-O-Benzyl-3-O-octadecyl-1-O-tosylglycerol | 1.2 g, yield of 88.6% | C(C1=CC=CC=C1)OC(COS(=O)(=O)C1=CC=C(C)C=C1)COCCCCCCCCCCCCCCCCCC | C35H56O5S
